US08053574B2
3-Chloro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine
3-Bromo-3-chloropyridine (0.5 g, 2.6 mmol), bis(pinacolato)diboron (0.79 g, 3/12 mmol), [1,1′-Bis(diphenylphosphino)ferrocene]palladium(II) chloride (0.127 g, 0.15 mmol), potassium acetate (0.77 g, 7.8 mmol) and DMF (10 ml) are stirred together at room temperature for 10 minutes whilst bubbling argon through the solution. The reaction mixture is heated to 100° C. for 90 minutes, cooled to room temperature and purified by flash chromatography by pre-absorbing onto silica, eluting with 5:1 EtOAc:iso-hexanes to afford the title compound.

reactant | 3-Bromo-3-chloropyridine | 2.6 mmol, 0.5 g | BrC1(CN=CC=C1)Cl | C5H5BrClN
reactant | bis(pinacolato)diboron | 12 mmol, 0.79 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 7.8 mmol, 0.77 g | C(C)(=O)[O-].[K+]
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]palladium(II) chloride | 0.15 mmol, 0.127 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-Chloro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine | ClC=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C11H15BClNO2
